US05185468
A 100-ml round-bottom flask was charged with a solution of 2.14 g (6.4 mmoles) of vitamin A acetate, 1.68 g (6.4 mmoles) of triphenylphosphine and 0.64 g (6.4 mmoles) of concentrated sulfuric acid in 10 g of methanol, and the contents were stirred at 25° C. for 3 hours. Thereafter, methanol was removed by distillation in vacuo from the reaction mixture to obtain a tar-like vitamin A phosphonium salt. This was dissolved in 10 g of water and to the solution was added 10 ml of a solution of 3.0 g (6.4 mmoles) of 6-chloro-3,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexen-1-yl)-9-phenylsulfonyl-2,7-nonadien-1-al in methylene chloride. To this mixture was added gradually 10.84 g (12.8 mmoles) of a 7.7% aqueous solution of potassium hydroxide at 8° C., and the resulting mixture was stirred for 30 minutes. After completion of the reaction, an organic layer was separated from an aqueous layer and washed with water, followed by distilling off of the solvent, to give 6.72 g (purity: 40.9%, 3.85 mmoles, yield: 60.2%) of an oily substance. This substance was purified by silica gel chromatography (hexane/ethyl acetate=85/15) to give 2.05 g of 1-phenylsulfonyl-4-chloro-1,18-di(2,6,6-trimethyl-1-cyclohexen-1-yl)-3,7,12,16-tetramethyloctadeca-2,7,9,11,13,15,17-heptaene.

reactant | 6-chloro-3,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexen-1-yl)-9-phenylsulfonyl-2,7-nonadien-1-al | 6.4 mmoles, 3.0 g | ClC(CCC(=CC=O)C)C(=CC(S(=O)(=O)C1=CC=CC=C1)C1=C(CCCC1(C)C)C)C | C26H35ClO3S
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 10 g | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-phenylsulfonyl-4-chloro-1,18-di(2,6,6-trimethyl-1-cyclohexen-1-yl)-3,7,12,16-tetramethyloctadeca-2,7,9,11,13,15,17-heptaene | 2.05 g | C1(=CC=CC=C1)S(=O)(=O)C(C=C(C(CCC(=CC=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C)C)Cl)C)C1=C(CCCC1(C)C)C | C46H63ClO2S
